### PR TITLE
feat(Computability): define oracle computability and Turing degrees

### PR DESCRIPTION
**Pull request by tannerduve**
Some initial definitions introducing a model of oracle computability via partial recursive functions, defining Turing reducibility and equivalence, and proving that Turing equivalence is an equivalence relation. We define the type of Turing degrees as equivalence classes under Turing equivalence and prove that it forms a partial order under reducibility. This PR includes:

- `RecursiveIn f g`: An inductive definition representing that a partial function `f` is recursive in oracle `g`, ie. `f` reduces to `g`.
- `TuringEquivalent`: A relation defining Turing equivalence between partial functions.
- `TuringDegree`: The type of Turing degrees, defined as equivalence classes under `TuringEquivalent`.
- A proof that TuringDegree is a partial order when reducibility is lifted to degrees

### Implementation Notes

The type `RecursiveIn f g` is inductively defined to include basic functions such as `zero`, `succ`, projections, and the oracle `g`, and is closed under pairing, composition, primitive recursion, and μ-recursion. The `join` operation combines two partial functions by mapping even and odd numbers to the respective functions.

### Notation
- `f ≡ᵀ g`: `f` is Turing equivalent to `g`.

## In Progress
The work here is just the basic definitions for the theory being developed. Some current in-progress work involves proving the upper-semilattice structure of Turing degrees, proving the existence of a _relativized_ universal partial recursive function, proving properties of the jump operator, and proving that degrees are not totally ordered (Kleene-Post theorem).

### References

* [Carneiro2018] Carneiro, Mario. *Formalizing Computability Theory via Partial Recursive Functions*. arXiv preprint arXiv:1810.08380, 2018.
* [Odifreddi1989] Odifreddi, Piergiorgio. *Classical Recursion Theory: The Theory of Functions and Sets of Natural Numbers, Vol. I*. Springer-Verlag, 1989.
* [Soare1987] Soare, Robert I. *Recursively Enumerable Sets and Degrees*. Springer-Verlag, 1987.
* [Gu2015] Gu, Yi-Zhi. *Turing Degrees*. Institute for Advanced Study, 2015.

### Tags

Computability, Oracle, Turing Degrees, Reducibility, Equivalence Relation

### CODE REVIEW

File: Mathlib/Computability/TuringDegrees.lean [hunk 1]
```diff
@@ -0,0 +1,267 @@
...
+        n.rec (f a) (fun y ih => do
+          let i ← ih
+          h (Nat.pair a (Nat.pair y i)))) g
+  | rfind (f g : ℕ →. ℕ) (hf : RecursiveIn f g) :
+      RecursiveIn (fun a =>
+        Nat.rfind (fun n => (fun m => m = 0) <$> f (Nat.pair a n))) g
+
+
+/--
+`f` is Turing equivalent to `g` if `f` is reducible to `g` and `g` is reducible to `f`.
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:83]: Do you mean `recursive in` instead of `reducible to`?

File: Mathlib/Computability/TuringDegrees.lean [hunk 2]
```diff
@@ -0,0 +1,267 @@
...
+
+/--
+If a function is recursive in the constant zero function,
+then it is partial recursive.
+-/
+lemma RecursiveIn.partrec_of_zero (f : ℕ →. ℕ) (fRecInZero : RecursiveIn f fun _ => Part.some 0) :
+  Nat.Partrec f := by
+  generalize h : (fun _ => Part.some 0) = fp at *
+  induction fRecInZero
+  case zero =>
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:124]: a styile nit (to apply throughout):
```suggestion
  induction fRecInZero with
  | zero =>
```
etc (this is only valid if you change all the `case` lines)

File: Mathlib/Computability/TuringDegrees.lean [hunk 3]
```diff
@@ -0,0 +1,267 @@
...
+A partial function `f` is partial recursive if and only if it is recursive in
+every partial function `g`.
+-/
+theorem partrec_iff_partrec_in_everything (f : ℕ →. ℕ) : Nat.Partrec f ↔ ∀ g, RecursiveIn f g :=
+  ⟨(·.recursiveIn), (· _ |>.partrec_of_zero)⟩
+
+/--
+Proof that turing reducibility is reflexive.
+-/
+theorem RecursiveIn.refl (f : ℕ →. ℕ) : RecursiveIn f f :=
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:168]:
```suggestion
@[refl]
theorem RecursiveIn.refl (f : ℕ →. ℕ) : RecursiveIn f f :=
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 4]
```diff
@@ -0,0 +1,267 @@
...
+-/
+instance : IsRefl (ℕ →. ℕ) RecursiveIn :=
+  ⟨fun f => RecursiveIn.refl f⟩
+
+/--
+Proof that turing reducibility is transitive.
+-/
+theorem RecursiveIn.trans {f g h : ℕ →. ℕ} (hg : RecursiveIn f g) (hh : RecursiveIn g h) :
+  RecursiveIn f h := by
+  induction hg
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:182]: Style nit: statements should be indented one level further than the proof:
```suggestion
theorem RecursiveIn.trans {f g h : ℕ →. ℕ} (hg : RecursiveIn f g) (hh : RecursiveIn g h) :
    RecursiveIn f h := by
  induction hg
```
(and throughout)

File: Mathlib/Computability/TuringDegrees.lean [hunk 5]
```diff
@@ -0,0 +1,267 @@
...
+Proof that turing reducibility is reflexive.
+-/
+theorem RecursiveIn.refl (f : ℕ →. ℕ) : RecursiveIn f f :=
+  RecursiveIn.oracle f
+
+/--
+Instance declaring that `RecursiveIn` is reflexive.
+-/
+instance : IsRefl (ℕ →. ℕ) RecursiveIn :=
+  ⟨fun f => RecursiveIn.refl f⟩
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:175]:
```suggestion
  ⟨RecursiveIn.refl⟩
```
(untested)

File: Mathlib/Computability/TuringDegrees.lean [hunk 6]
```diff
@@ -0,0 +1,267 @@
...
+-/
+@[symm]
+theorem TuringEquivalent.symm {f g : ℕ →. ℕ} (h : f ≡ᵀ g) : g ≡ᵀ f :=
+  Equivalence.symm equivalence h
+
+/--
+Proof that `TuringEquivalent` is transitive.
+-/
+@[trans]
+theorem TuringEquivalent.trans (f g h : ℕ →. ℕ) (h1 : f ≡ᵀ g) (h2 : g ≡ᵀ h) : f ≡ᵀ h :=
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:253]:
```suggestion
theorem TuringEquivalent.trans {f g h : ℕ →. ℕ} (h1 : f ≡ᵀ g) (h2 : g ≡ᵀ h) : f ≡ᵀ h :=
```
will make dot notation more effective here.

File: Mathlib/Computability/TuringDegrees.lean [hunk 7]
```diff
@@ -0,0 +1,267 @@
...
+  Equivalence.trans equivalence h1 h2
+
+/--
+The Turing degrees as the set of equivalence classes under Turing equivalence.
+-/
+abbrev TuringDegree :=
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:259]: to make it clearer what you're defining here:
```suggestion
abbrev TuringDegree : Type _ :=
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 8]
```diff
@@ -0,0 +1,267 @@
...
+/--
+Proof that `TuringEquivalent` is transitive.
+-/
+@[trans]
+theorem TuringEquivalent.trans (f g h : ℕ →. ℕ) (h1 : f ≡ᵀ g) (h2 : g ≡ᵀ h) : f ≡ᵀ h :=
+  Equivalence.trans equivalence h1 h2
+
+/--
+The Turing degrees as the set of equivalence classes under Turing equivalence.
+-/
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:258]: This doesn't really match the Lean definition; I think more appropriate would be
```suggestion
/-- The type of Turing degrees, implemented as the quotient of partial functions (`PFun`) under Turing equivalence. -/
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 9]
```diff
@@ -0,0 +1,267 @@
...
+/--
+Instance declaring that `RecursiveIn` is a preorder.
+-/
+instance : IsPreorder (ℕ →. ℕ) RecursiveIn where
+  refl := RecursiveIn.refl
+  trans := @RecursiveIn.trans
+
+/--
+Proof that `TuringEquivalent` is an equivalence relation.
+-/
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:231]: Generally we prefer to omit docstrings that are a literal symbol reading of the lean code. This analogous to writing `i++; // add one to i` in C++.

File: Mathlib/Computability/TuringDegrees.lean [hunk 10]
```diff
@@ -0,0 +1,267 @@
...
+
+## References
+
+* [Carneiro2018] Carneiro, Mario.
+  *Formalizing Computability Theory via Partial Recursive Functions*.
+  arXiv preprint arXiv:1810.08380, 2018.
+* [Odifreddi1989] Odifreddi, Piergiorgio.
+  *Classical Recursion Theory: The Theory of Functions and Sets of Natural Numbers,
+  Vol. I*. Springer-Verlag, 1989.
+* [Soare1987] Soare, Robert I. *Recursively Enumerable Sets and Degrees*. Springer-Verlag, 1987.
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:43]: Please add these to `references.bib`, if they are not already there.

File: Mathlib/Computability/TuringDegrees.lean [hunk 11]
```diff
@@ -0,0 +1,267 @@
+/-
+Copyright (c) 2024 Tanner Duve. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Tanner Duve, Elan Roth
+-/
+import Mathlib.Computability.Primrec
+import Mathlib.Computability.Partrec
+import Mathlib.Data.Part
+import Mathlib.Order.Antisymmetrization
+/-!
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:10]: super nit: blank line between the imports and the start of this comment:
```suggestion

/-!
```

**Review by eric-wieser — COMMENTED** [review]
Thanks for reopening this PR from a branch!

File: Mathlib/Computability/TuringDegrees.lean [hunk 12]
```diff
@@ -0,0 +1,267 @@
...
+      RecursiveIn (fun n => (Nat.pair <$> f n <*> h n)) g
+  | comp (f h g : ℕ →. ℕ) (hf : RecursiveIn f g) (hh : RecursiveIn h g) :
+      RecursiveIn (fun n => h n >>= f) g
+  | prec (f h g : ℕ →. ℕ) (hf : RecursiveIn f g) (hh : RecursiveIn h g) :
+      RecursiveIn (fun p =>
+        let (a, n) := Nat.unpair p
+        n.rec (f a) (fun y ih => do
+          let i ← ih
+          h (Nat.pair a (Nat.pair y i)))) g
+  | rfind (f g : ℕ →. ℕ) (hf : RecursiveIn f g) :
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:78]: Could you add a docstring to `rfind` and `prec`, that explain what these shorthands refer to? The syntax is
```lean
  /-- docstring -/
  | rfind (f g : ℕ →. ℕ) (hf : RecursiveIn f g) :
```
Is this one "μ-recursion."?

File: Mathlib/Computability/TuringDegrees.lean [hunk 13]
```diff
@@ -0,0 +1,267 @@
...
+
+Equivalently one can say that `f` is turing reducible to `g` when `f` is recursive in `g`.
+-/
+
+inductive RecursiveIn : (ℕ →. ℕ) → (ℕ →. ℕ) → Prop
+  | zero (g) : RecursiveIn (fun _ => 0) g
+  | succ (g) : RecursiveIn Nat.succ g
+  | left (g) : RecursiveIn (fun n => (Nat.unpair n).1) g
+  | right (g) : RecursiveIn (fun n => (Nat.unpair n).2) g
+  | oracle (g) : RecursiveIn g g
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:63]: I wonder if it makes sense to have multiple oracles here? That is, to change this to
```
inductive RecursiveIn (ι : Sort*) : (ℕ →. ℕ) → (oracles : ι → ℕ →. ℕ) → Prop
  | oracle (i) : RecursiveIn (oracles i) oracles
  -- etc
```
What's nice about this definition is that we can redefine `PartRec = RecursiveIn Empty`.

@digama0 might have more thoughts on whether this is actually a good idea.

File: Mathlib/Computability/TuringDegrees.lean (hunk 10 above)
Comment (eric-wieser) [reply Mathlib/Computability/TuringDegrees.lean]: (note that after doing so, you should still reference them here, but the format should be adjusted to match other files)

File: Mathlib/Computability/TuringDegrees.lean (hunk 13 above)
Comment (digama0) [reply Mathlib/Computability/TuringDegrees.lean:63]: Makes sense to me. You could also use a set of oracles instead of an indexed family. (I met with @tannerduve at one point to discuss this project and I think I may even have suggested as much at the time.)

File: Mathlib/Computability/TuringDegrees.lean [hunk 14]
```diff
@@ -0,0 +1,254 @@
...
+theorem TuringEquivalent.trans {f g h : ℕ →. ℕ} (h1 : f ≡ᵀ g) (h2 : g ≡ᵀ h) : f ≡ᵀ h :=
+  Equivalence.trans equivalence h1 h2
+
+/-- The type of Turing degrees, implemented as the
+quotient of partial functions (`PFun`) under Turing equivalence. -/
+abbrev TuringDegree : Type _ :=
+  Antisymmetrization _ RecursiveIn
+
+/--
+Instance declaring that `TuringDegree` is a partially ordered type.
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:250]: This isn't strictly accurate - it's giving it a partial order, not declaring that it has one

File: Mathlib/Computability/TuringDegrees.lean [hunk 15]
```diff
@@ -0,0 +1,254 @@
...
+instance : IsPreorder (ℕ →. ℕ) RecursiveIn where
+  refl := RecursiveIn.refl
+  trans := @RecursiveIn.trans
+
+theorem TuringEquivalent.equivalence : Equivalence TuringEquivalent :=
+  (AntisymmRel.setoid _ _).iseqv
+
+@[refl]
+theorem TuringEquivalent.refl (f : ℕ →. ℕ) : f ≡ᵀ f :=
+  Equivalence.refl equivalence f
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:234]:
```suggestion
  equivalence.refl f
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 16]
```diff
@@ -0,0 +1,254 @@
...
+
+@[symm]
+theorem TuringEquivalent.symm {f g : ℕ →. ℕ} (h : f ≡ᵀ g) : g ≡ᵀ f :=
+  Equivalence.symm equivalence h
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:238]:
```suggestion
  equivalence.symm h
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 17]
```diff
@@ -0,0 +1,254 @@
...
+
+@[trans]
+theorem TuringEquivalent.trans {f g h : ℕ →. ℕ} (h1 : f ≡ᵀ g) (h2 : g ≡ᵀ h) : f ≡ᵀ h :=
+  Equivalence.trans equivalence h1 h2
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:242]:
```suggestion
  equivalence.trans h1 h2
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 18]
```diff
@@ -0,0 +1,254 @@
...
+      apply hh
+    · apply hh_ih
+      apply hh
+  | rfind f' _ _ hf_ih =>
+    apply RecursiveIn.rfind
+    · apply hf_ih
+      apply hh
+
+instance : IsTrans (ℕ →. ℕ) RecursiveIn :=
+  ⟨@RecursiveIn.trans⟩
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:223]: The `IsPreorder` implies this, so this is unnecessary

File: Mathlib/Computability/TuringDegrees.lean [hunk 19]
```diff
@@ -0,0 +1,254 @@
...
+-/
+@[refl]
+theorem RecursiveIn.refl (f : ℕ →. ℕ) : RecursiveIn f f :=
+  RecursiveIn.oracle f
+
+/--
+Instance declaring that `RecursiveIn` is reflexive.
+-/
+instance : IsRefl (ℕ →. ℕ) RecursiveIn :=
+  ⟨RecursiveIn.refl⟩
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:181]: The `IsPreorder` implies this, so this is unnecessary

File: Mathlib/Computability/TuringDegrees.lean [hunk 20]
```diff
@@ -0,0 +1,254 @@
...
+    · apply ih1
+    · apply ih2
+  | rfind _ ih =>
+    apply RecursiveIn.rfind; apply ih
+
+/--
+If a function is recursive in the constant zero function,
+then it is partial recursive.
+-/
+lemma RecursiveIn.partrec_of_zero (f : ℕ →. ℕ) (fRecInZero : RecursiveIn f fun _ => Part.some 0) :
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:125]: This could be more generally `RecursiveIn.partrec_of_partrec (f g : ℕ →. ℕ) (hg : Nat.Partrec g) (fRecInZero : RecursiveIn f g) : Nat.Partrec f` (or, if [this](https://github.com/leanprover-community/mathlib4/pull/20301/files#r1899026178) suggestion is implemented this would just be a corollary of a (suitable form of) `RecursiveIn.trans`)

File: Mathlib/Computability/TuringDegrees.lean (hunk 1 above)
Comment (Command-Master) [reply Mathlib/Computability/TuringDegrees.lean:82]: I think this is referring to the "Equivalently one can say that `f` is turing reducible to `g` when `f` is recursive in `g`." above

File: Mathlib/Computability/TuringDegrees.lean (hunk 13 above)
Comment (Command-Master) [reply Mathlib/Computability/TuringDegrees.lean:63]: Do you want to allow the program itself to choose which oracle to access, if you have countably many?

Comment (Command-Master) [reply Mathlib/Computability/TuringDegrees.lean:63]: What benefits does this have over implementing this by combining the oracles to one function and applying a single-function `RecursiveIn`? `Partrec` could be redefined as either `RecursiveIn fun _ ↦ ⊥` or `RecursiveIn fun _ ↦ 0`.

Comment (eric-wieser) [reply Mathlib/Computability/TuringDegrees.lean:63]: Agreed @digama0  that a `Set` of oracles makes more sense than my indexed family, especially since this lives in `Prop`.

I don't know enough about the domain to know what to do if there are countably many oracles, or whether instead requiring the caller to combine them into a single oracle is sensible.

If you prefer this latter approach, can you add to the docstring a comment suggesting how oracles can be combined in this way?

File: Mathlib/Computability/TuringDegrees.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Computability/TuringDegrees.lean:82]: But you haven't mentioned the phrase "turing reducible" anywhere in your documentation yet. Is it synonymous with "recursive in"? If so, can you add this to the docstring of `RecursiveIn` as another name for the same idea?

File: Mathlib/Computability/TuringDegrees.lean [hunk 21]
```diff
@@ -0,0 +1,254 @@
...
+The type of partial functions recursive in an oracle `g` is the smallest type containing
+the constant zero, the successor, projections, the oracle `g`, and is closed under
+pairing, composition, primitive recursion, and μ-recursion.
+
+## References
+
+* [carneiro2019] Carneiro, Mario.
+  *Formalizing Computability Theory via Partial Recursive Functions*.
+  arXiv preprint arXiv:1810.08380, 2018.
+* [soare1987] Soare, Robert I. *Recursively Enumerable Sets and Degrees*. Springer-Verlag, 1987.
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:41]: I don't think this is the preferred citation format, and we usual use
```suggestion
* [Soare, Robert I. *Recursively Enumerable Sets and Degrees*. Springer-Verlag, 1987.][soare1987] 
```

File: Mathlib/Computability/TuringDegrees.lean (hunk 13 above)
Comment (digama0) [reply Mathlib/Computability/TuringDegrees.lean:63]: Oracles can't be combined in general. For finite oracles you can multiplex them but already for countable oracles you run into computability restrictions. For uncountable oracles it's simply impossible to combine them into one.
